US03956374
4-(o-Chlorocinnamyl)-4-phenyl-5-oxo-7 -(o-methoxyphenyl)-6-heptenoic Acid
o-Methoxybenzaldehyde (2.72 g., 0.02 mole) in ethanol (10 ml.) is added to a solution of 4-(o-chlorocinnamyl)-4-phenyl-5-oxohexanoic acid (3.57 g., 0.01 mole) and sodium hydroxide (0.56 g., 0.014 mole) in water (50 ml.). The resulting mixture is heated on a steam bath for 24 hours. The reaction solution is cooled to room temperature, diluted with water (200 ml.), and extracted with ether to remove the excess o-methyoxybenzaldehyde. Ether is expelled from the aqueous phase by warming. The solution is cooled in an ice bath, acidified with dilute hydrochloric acid (10 ml.), and the yellow solid which precipitates is collected and air-dried. Several recrystallizations from ethanol yields a pale yellow material with m.p. 206.5°-209.5°C.

reactant | o-Methoxybenzaldehyde | 0.02 mole, 2.72 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | 4-(o-chlorocinnamyl)-4-phenyl-5-oxohexanoic acid | 0.01 mole, 3.57 g | ClC1=C(C=CCC(CCC(=O)O)(C(C)=O)C2=CC=CC=C2)C=CC=C1 | C21H21ClO3
reactant | sodium hydroxide | 0.014 mole, 0.56 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 4-(o-Chlorocinnamyl)-4-phenyl-5-oxo-7 -(o-methoxyphenyl)-6-heptenoic Acid | ClC1=C(C=CCC(CCC(=O)O)(C(C=CC2=C(C=CC=C2)OC)=O)C2=CC=CC=C2)C=CC=C1 | C29H27ClO4
